US04144344
200 g of 1-benzyl-4-(2-anilino-ethylamino)-piperidine and 2000 ml of toluene and 1940 ml of potassium hydroxide solution are charged into a reaction vessel. The temperature is kept between 5° and 10° C with a mixture of ice and methanol while 300 g of phosgene are introduced in the course of 3 hours. Thereafter the reaction mixture is stirred for 2 hours at room temperature. During the dropwise addition of 860 ml of potassium hydroxide, the temperature is kept below 25° C with an ice-bath. The batch is then stirred for 14 hours. The precipitated crystals are collected with suction and dried. The two-phase filtrate is separated in a separating funnel. The toluene phase is dried over 200 g of sodium sulphate, filtered and concentrated. The residue is recrystallied from 400 ml of ethanol to give the 1-(1-benzyl-4-piperidyl)-3-phenyl-imidazolidin- 2-one with a melting point of 173°-174° C.

reactant | 1-benzyl-4-(2-anilino-ethylamino)-piperidine | 200 g | C(C1=CC=CC=C1)N1CCC(CC1)NCCNC1=CC=CC=C1 | C20H27N3
reactant | toluene | 2000 ml | C1(=CC=CC=C1)C | C7H8
reactant | potassium hydroxide | 1940 ml | [OH-].[K+]
reactant | phosgene | 300 g | C(=O)(Cl)Cl | CCl2O
reactant | potassium hydroxide | 860 ml | [OH-].[K+]
solvent | methanol | CO | CH4O
product | 1-(1-benzyl-4-piperidyl)-3-phenyl-imidazolidin- 2-one | C(C1=CC=CC=C1)N1CCC(CC1)N1C(N(CC1)C1=CC=CC=C1)=O | C21H25N3O
